US08026257B2
(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methanol.
To a suspension of 5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde (3 g, 9.65 mmol) in ethanol (20 mL) at 0° C. was added sodium borohydride (0.183 g, 4.83 mmol). The ice bath was removed and stirring continued for 1 h. The reaction was recooled to 0° C. and quenched by the cautious addition of saturated ammonium chloride. The reaction was concentrated to remove most of the ethanol. The resulting residue was dissolved in water and extracted with diethyl ether (2×). The ethereal was washed with water, then brine, dried over magnesium sulfate, and concentrated to give 3.3 g (quant.) as a viscous oil. 1H-NMR (CDCl3, 500 MHz) δ 8.04 (s, 1H), 7.55 (d, J=1.5 Hz, 1H), 7.19 (d, J=1.2 Hz, 1H), 5.67 (s, 2H), 5.04 (d, J=4.9 Hz, 2H), 3.61 (t, J=8.2 Hz, 2H), 3.31 (m, 1H), 0.92 (t, J=8.2 Hz, 2H), −0.04 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 145.9, 132.4, 128.0, 124.7, 122.7, 122.6, 118.3, 81.9, 67.8, 62.3, 17.9, −1.4. Mass spec.: 313.12 (MH)+.

reactant | 5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde | 9.65 mmol, 3 g | ClC1=CC2=CN(N=C2C(=C1)C=O)COCC[Si](C)(C)C | C14H19ClN2O2Si
reactant | sodium borohydride | 4.83 mmol, 0.183 g | [BH4-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methanol | ClC1=CC2=CN(N=C2C(=C1)CO)COCC[Si](C)(C)C | C14H21ClN2O2Si
